### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Iwasawa): the Iwasawa criterion for simplicity

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
# The Iwasawa criterion for simplicity

- `IwasawaStructure` : the structure underlying the Iwasawa criterion
For a group `G`, this consists of an action of `G` on a type `α` and,
for every `a : α`, of a subgroup `T a`, such that the following properties hold:
  - for all `a`, `T a` is commutative
  - for all `g : G` and `a : α`, `T (g • a) = MulAut.conj g • T a`
  - the subgroups `T a` generate `G`

We then prove two versions of the Iwasawa criterion when
there is an Iwasawa structure.

- `IwasawaStructure.commutator_le` asserts that if the action of `G` on `α`
is quasiprimitive, then every normal subgroup that acts nontrivially
contains `commutator G`

- `IwasawaStructure.isSimpleGroup` : the Iwasawa criterion for simplicity
If the action of `G` on `α` is quasiprimitive and faithful,
and `G` is nontrivial and perfect, then `G` is simple.

---

This is the full PR. I will instantly split it in smaller PR.
- [x] depends on: #12023 generalization of pointwise lemmas for smul of sets.
- [x] depends on: #12049 blocks
- [x] depends on: #12052 primitive actions

the file also contains the content of the branches
- [x] : #13995 - order isomorphism between blocks containing a point and subgroups containing the stabilizer 
- [x] : #14029 - blocks (specific results for finite sets), Rubio theorem
- [x] : #19171 - additivize equivariant morphisms

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
Is this ready for review? If not, can you add "WIP"? Thanks!

**Comment by AntoineChambert-Loir** [comment]
It was supposed to be ready for review, but it seems that recent `merge` broke it…

**Comment by AntoineChambert-Loir** [comment]
bot fix style

**Comment by AntoineChambert-Loir** [comment]
bot fix style

File: Mathlib/GroupTheory/Abelianization.lean [hunk 1]
```diff
@@ -297,3 +312,80 @@ instance [Finite (commutatorSet G)] :
...
+  simp only [φ, MonoidHom.range_eq_map, ← Subgroup.map_map]
+  have : Subgroup.map (QuotientGroup.mk' N) ⊤ = ⊤ := by
+    rw [← MonoidHom.range_eq_map, MonoidHom.range_eq_top]
+    exact QuotientGroup.mk'_surjective N
+  rw [← this, Subgroup.map_eq_map_iff]
+  simp only [QuotientGroup.ker_mk', sup_comm, ← hHN]
+  rw [← sup_assoc]
+  congr
+  · rw [left_eq_sup]
+  · rw [← MonoidHom.range_eq_map, subtype_range]
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/Abelianization.lean:391]:
```suggestion
  · rw [← MonoidHom.range_eq_map, subtype_subtype]
```

Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/Abelianization.lean:391]:
```suggestion
  · rw [← MonoidHom.range_eq_map, range_subtype]
```

File: Mathlib/Data/Setoid/Partition.lean [hunk 2]
```diff
@@ -3,6 +3,9 @@ Copyright (c) 2019 Amelia Livingston. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Amelia Livingston, Bryan Gin-ge Chen, Patrick Massot, Wen Yang, Johan Commelin
 -/
+
+import Mathlib.Algebra.BigOperators.Finprod
+import Mathlib.Data.Set.Card
```
Comment (kim-em) [inline Mathlib/Data/Setoid/Partition.lean:8]: Could this result go in Mathlib/Data/Setoid/Partition/Card.lean (moving the current file to Partition/Basic)?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 3]
```diff
@@ -38,8 +38,9 @@ The non-existence of nontrivial blocks is the definition of primitive actions.
 
 - `MulAction.BlockMem` : the type of blocks containing a given element
 
-- `MulAction.BlockMem.boundedOrder` :
-  the type of blocks containing a given element is a bounded order.
+## instance
+
+- The type of blocks containing a given element is a bounded order.
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:43]:
```suggestion
- `MulAction.BlockMem.boundedOrder` :
  the type of blocks containing a given element is a bounded order.
```

**Review by kim-em — APPROVED** [review]

**Comment by AntoineChambert-Loir** [comment]
Note : that will merge #12052 but not #12053

File: Mathlib/Data/Set/Card.lean [hunk 4]
```diff
@@ -792,6 +792,13 @@ theorem inj_on_of_surj_on_of_ncard_le {t : Set β} (f : ∀ a ∈ s, β) (hf : 
       (by { rwa [← ncard_eq_toFinset_card', ← ncard_eq_toFinset_card'] }) a₁
       (by simpa) a₂ (by simpa) (by simpa)
 
+theorem ncard_coe {α : Type*} (s : Set α) :
```
Comment (riccardobrasca) [inline Mathlib/Data/Set/Card.lean:795]: Can you switch the LHS and RHS and make it a `simp` lemma?

File: Mathlib/GroupTheory/GroupAction/Primitive.lean [hunk 5]
```diff
@@ -50,6 +49,21 @@ import Mathlib.GroupTheory.GroupAction.Transitive
 - `MulAction.IsPreprimitive.isQuasipreprimitive`
   Preprimitive actions are quasipreprimitive.
 
+## Particular results for actions on finite types
+
+- `isPreprimitive_of_primeCard` :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/Primitive.lean:54]: Do this results exist somewhere? I don't see them in current mathlib and you are modifying the docstring of this file.

File: Mathlib/GroupTheory/Abelianization.lean [hunk 6]
```diff
@@ -77,6 +77,21 @@ theorem commutator_centralizer_commutator_le_center :
   rw [Subgroup.commutator_comm, Subgroup.commutator_eq_bot_iff_le_centralizer]
   exact Set.centralizer_subset (Subgroup.commutator_mono le_top le_top)
 
+/-- If g is conjugate to g ^ 2, then g is a commutator -/
+theorem mem_commutatorSet_of_isConj_sq {g : G} (hg : IsConj g (g ^ 2)) :
+    g ∈ commutatorSet G := by
+  obtain ⟨h, hg⟩ := hg
+  use ↑h; use g
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:84]:
```suggestion
  use h, g
```

File: Mathlib/GroupTheory/Abelianization.lean [hunk 7]
```diff
@@ -77,6 +77,21 @@ theorem commutator_centralizer_commutator_le_center :
...
+  rw [commutatorElement_def, hg]
+  simp only [IsUnit.mul_inv_cancel_right, Units.isUnit, mul_inv_eq_iff_eq_mul, pow_two]
+
+theorem Subgroup.map_commutator_eq {H : Type*} [Group H] (f : G →* H) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:88]: The name start with `Subgroup` but there is no subgroup in the theorem (I mean, there is the commutator, but no `H : Subgroup G`). Anyway not very important. (If it doesn't start with `Subgroup.` I think you can remove the `_root_.`)

File: Mathlib/GroupTheory/Abelianization.lean [hunk 8]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+
+/-- If G and H have multiplications *
+and φ : G → H is a surjective multiplicative map,
+and if G is commutative, then H is commutative.
+
+Since I only use it with groups,
+I should probably use function.surjective.comm_semigroup
+--/
+theorem Function.Surjective.comm
+    {G H : Type _} [Mul G] [Mul H] {φ : MulHom G H}
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:338]:
```suggestion
    {G H : Type*} [Mul G] [Mul H] {φ : MulHom G H}
```

File: Mathlib/GroupTheory/Abelianization.lean [hunk 9]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+
+/- # Subgroups containing commutator -/
+
+variable {G}
+
+/-- If G and H have multiplications *
+and φ : G → H is a surjective multiplicative map,
+and if G is commutative, then H is commutative.
+
+Since I only use it with groups,
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:334]: This part of the comment has probably been forgotten.

File: Mathlib/GroupTheory/Abelianization.lean [hunk 10]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+I should probably use function.surjective.comm_semigroup
+--/
+theorem Function.Surjective.comm
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:337]: This can surely go somewhere else, in a more basic file.

File: Mathlib/GroupTheory/Abelianization.lean [hunk 11]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+    (is_comm : Std.Commutative (· * · : G → G → G)) :
+    Std.Commutative (· * · : H → H → H) where
+  comm := fun a b ↦ by
+    obtain ⟨a', ha'⟩ := is_surj a
+    obtain ⟨b', hb'⟩ := is_surj b
+    simp only [← ha', ← hb', ← map_mul]
+    rw [is_comm.comm]
+
+theorem Subgroup.Normal.quotient_commutative_iff_commutator_le
+    {N : Subgroup G} (nN : N.Normal) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:349]:
```suggestion
    (N : Subgroup G) [nN : N.Normal] :
```
Not 100% sure is a good idea, but `Normal` is a class.

File: Mathlib/GroupTheory/Abelianization.lean [hunk 12]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+    Std.Commutative (· * · : G ⧸ N → _ → _) ↔ _root_.commutator G ≤ N := by
+  constructor
+  · intro hcomm
+    rw [commutator_eq_normalClosure]
+    rw [← Subgroup.normalClosure_subset_iff]
+    intro x hx
+    obtain ⟨p, q, rfl⟩ := hx
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:356]:
```suggestion
    rintro x ⟨p, q, rfl⟩
```

File: Mathlib/GroupTheory/Abelianization.lean [hunk 13]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+    simp only [SetLike.mem_coe]
+    rw [← QuotientGroup.eq_one_iff]
+    rw [commutatorElement_def]
+    simp only [QuotientGroup.mk_mul, QuotientGroup.mk_inv]
+    rw [← commutatorElement_def]
+    rw [commutatorElement_eq_one_iff_mul_comm]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:362]:
```suggestion
        rw [SetLike.mem_coe, ← QuotientGroup.eq_one_iff, commutatorElement_def]
```

File: Mathlib/GroupTheory/Abelianization.lean [hunk 14]
```diff
@@ -307,3 +322,80 @@ instance [Finite (commutatorSet G)] :
...
+    rw [QuotientGroup.eq_one_iff]
+    apply hGN
+    rw [commutator_eq_closure]
+    apply Subgroup.subset_closure
+    exact commutator_mem_commutatorSet x y
+
+/-- If N is a normal subgroup, H a commutative subgroup such that H ⊔ N = ⊤,
+  then N contains `commutator G`. -/
+theorem Subgroup.Normal.commutator_le_of_self_sup_commutative_eq_top
+    {N : Subgroup G} (nN : N.Normal)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Abelianization.lean:379]: Same as above.

File: Mathlib/GroupTheory/GroupAction/Primitive.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Primitive.lean:54]: Sorry, this belongs to #12053, it had been included at some point but I deleted it from this PR to which it is not necessary.

File: Mathlib/GroupTheory/Abelianization.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Abelianization.lean:349]: that works.

File: Mathlib/GroupTheory/Abelianization.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Abelianization.lean:362]: I did not understand what you expected.

File: Mathlib/GroupTheory/Abelianization.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Abelianization.lean:337]: Yep.

File: Mathlib/GroupTheory/Abelianization.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Abelianization.lean:334]: I deleted the final part of the comment.

File: Mathlib/GroupTheory/Abelianization.lean (hunk 13 above)
Comment (riccardobrasca) [reply Mathlib/GroupTheory/Abelianization.lean]: I am just replacing
```lean
rw [foo]
rw [bar]
```
by
```lean
rw [foo, bar]
```
Not very important.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Abelianization.lean]: I see. I had done it already, hence my misunderstanding.

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 15]
```diff
@@ -878,6 +878,20 @@ def MulHom.inverse [Mul M] [Mul N] (f : M →ₙ* N) (g : N → M)
       _ = g (f (g x * g y)) := by rw [f.map_mul]
       _ = g x * g y := h₁ _
 
+/-- If `M` and `N` have multiplications, `f : M →ₙ* N` is a surjective multiplicative map,
+and `M` is commutative, then `N` is commutative. --/
+@[to_additive add_comm
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/Hom/Defs.lean:883]: The additive name `add_comm` seems wrong.

**Review by riccardobrasca — APPROVED** [review]
One last comment and there is a building error, but LTGM, thanks!

bors d+

File: Mathlib/Algebra/Group/Hom/Defs.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/Defs.lean:883]: I'll choose `mul_comm` and `add_comm`.
